US04524146
A mixture of ethyl 4-(2-thiazolylhydrazino)-quinoline-3-carboxylate hydrochloride (1.16 g) and 20 ml of n-butanol is heated under reflux for 5 hours, cooled to room temperature and filtered. The resulting solid is washed with ethanol and ether, and dried to yield 2-(2-thiazolyl)-pyrazolo[4,3-c]quinolin-3(5H)-one, m.p. over 350°; IR (KBr) 818, 840, 871, 891 cm-1.

reactant | ethyl 4-(2-thiazolylhydrazino)-quinoline-3-carboxylate hydrochloride | 1.16 g | Cl.S1C(=NC=C1)NNC1=C(C=NC2=CC=CC=C12)C(=O)OCC
solvent | n-butanol | 20 ml | C(CCC)O | C4H10O
product | 2-(2-thiazolyl)-pyrazolo[4,3-c]quinolin-3(5H)-one | S1C(=NC=C1)N1N=C2C(=CNC=3C=CC=CC23)C1=O | C13H8N4OS
